US05068242
n-Octyl 2-[(Z)-3-methoxycarbonyl-2-propenoyl]-(1S,3S,5S) -2-azabicyclo[3.3.0]octane-3-carboxylate
This compound was obtained analogously to the method described in Example 1 from n-octyl (1S,3S,5S)-2-azabicyclo[3.3.0]octane-3-carboxylate and monomethyl maleate. MS (DCI) =380 (M+1).

reactant | n-octyl (1S,3S,5S)-2-azabicyclo[3.3.0]octane-3-carboxylate | [C@H]12N[C@@H](C[C@@H]2CCC1)C(=O)OCCCCCCCC | C16H29NO2
reactant | monomethyl maleate | C(\C=C/C(=O)[O-])(=O)OC
product | n-Octyl 2-[(Z)-3-methoxycarbonyl-2-propenoyl]-(1S,3S,5S) -2-azabicyclo[3.3.0]octane-3-carboxylate | COC(=O)\C=C/C(=O)N1[C@H]2CCC[C@H]2C[C@H]1C(=O)OCCCCCCCC | C21H33NO5
